US05319098
N-pyruvyl-L-proline (0.085 g., 0.46 mmoles, 1.0 eq.), hydroxylamine hydrochloride (0.048 g., 0.69 mmoles, 1.5 eq.), sodium acetate (0.056 g., 0.69 mmoles, 1.5 eq.), and 2 mL water and 10 mL ethanol were added to a 25 mL flask. The suspension was heated to reflux for 2 h. The imine was transferred under nitrogen gas with 100 mL ethanol to a 250 mL Parr flask. Palladium hydroxide-on-carbon (0.02 g., 0.18 mmoles, 0.4 eq.) and hydrochloric acid (6 mL, 0.2 moles, 430 eq.) were added and nitrogen was bubbled through for 3 minutes (pH=0.1). The material was hydrogenated for 17 hours as described in Example 1, Part A, to produce a>99.5% diastereomeric L-alanyl-L-proline. Isolation of the product from the reaction mixture can be accomplished by filtering the latter through Celite, adjusting the pH to 4, and concentrating the resultant solution to one-half volume. The solid which forms is collected by filtration, and held under vacuum to remove any residue solvent.

reactant | N-pyruvyl-L-proline | 0.46 mmoles, 0.085 g, 1.0 eq. | C(C(=O)C)(=O)N1[C@H](C(=O)O)CCC1 | C8H11NO4
reactant | hydroxylamine hydrochloride | 0.69 mmoles, 0.048 g, 1.5 eq. | Cl.NO
reactant | sodium acetate | 0.69 mmoles, 0.056 g, 1.5 eq. | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 0.2 moles, 6 mL, 430 eq. | Cl | ClH
catalyst | Palladium hydroxide-on-carbon | 0.18 mmoles, 0.02 g, 0.4 eq. | O.[Pd]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | L-alanyl-L-proline | 99.5% | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
